US04711958
The solution of 1.00 g of the 2-(1-naphthylmethylene)succinic anhydride and 0.37 g of morpholine in 31 ml of dry dichloromethane was stirred for 2 hours at room temperature. The reaction mixture was evaporated under reduced pressure, and the residue was triturated with a mixture of ethyl acetate, benzene and hexane (1/1/1 by volume) to obtain 1.10 g of 2-(1-naphthylmethylene)-3-(morpholinocarbonyl)propionic acid as colorless crystals.

reactant | 2-(1-naphthylmethylene)succinic anhydride | 1.00 g | C1(=CC=CC2=CC=CC=C12)C=C1C(=O)OC(C1)=O | C15H10O3
reactant | morpholine | 0.37 g | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 31 ml | ClCCl | CH2Cl2
product | 2-(1-naphthylmethylene)-3-(morpholinocarbonyl)propionic acid | 1.10 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CC(=O)N1CCOCC1 | C19H19NO4
